US03952001
A mixture of 6.3 g. 3-n-butylthio-1,2,4-triazole, 6.8 g. diallylcarbamoyl chloride, 25 ml. tetrahydrofuran and 8 ml. dry triethylamine was refluxed under anhydrous conditions for 4 hours. The reaction mixture was worked up as described in Example1 to produce an oil which was distilled under reduced pressure to give 1-diallylcarbamoyl-3-n-butylthio-1,2,4-triazole, b.p. 157°C./0.6 mm. (95.0% 1-isomer by GLC assay). Elemental analysis satisfactory.

reactant | 3-n-butylthio-1,2,4-triazole | C(CCC)SC1=NNC=N1 | C6H11N3S
reactant | diallylcarbamoyl chloride | C(C=C)N(C(=O)Cl)CC=C | C7H10ClNO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-diallylcarbamoyl-3-n-butylthio-1,2,4-triazole | C(C=C)N(C(=O)N1N=C(N=C1)SCCCC)CC=C | C13H20N4OS
